US09388167B2
A mixture of 2,4-dichloro-5-fluoropyrimidine (5.0 g, 30.0 mmol, 1.0 equiv), tributyl(vinyl)tin (10.4 g, 33.0 mmol, 1.1 equiv) in dichloromethane (50 mL) was degassed with a stream of nitrogen for 10 minutes. Bis(triphenylphosphine)palladium(II) chloride (0.53 g, 0.75 mmol, 0.025 equiv) was added. The resulting mixture was degassed with a stream of nitrogen for an additional 15 minutes and heated at reflux for 24 hours. The reaction mixture was cooled to room temperature and quenched with an aqueous potassium fluoride solution (2 M, 75 mL, 5 equiv). The resulting mixture was allowed to stir for 2 hours and filtered through Celite®. The filtrate was poured into a separatory funnel and separated. The organic layer was washed with water (20 mL) and saturated brine (20 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure at 20° C. The resulting crude product was purified on an AnaLogix® (SF40-115 g) column. The gradient utilized for the purification was 10 minutes isocratic pentane, followed by a 20 minutes ramp to 5% diethyl ether in pentane. The pure fractions were combined and concentrated under reduced pressure at 20° C. to give 2-chloro-5-fluoro-4-vinylpyrimidine as an oil (3.65 g, 77% yield).

reactant | 2,4-dichloro-5-fluoropyrimidine | 30.0 mmol, 5.0 g, 1.0 equiv | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | tributyl(vinyl)tin | 33.0 mmol, 10.4 g, 1.1 equiv | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | potassium fluoride | 2 M, 75 mL, 5 equiv | [F-].[K+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.75 mmol, 0.53 g, 0.025 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-5-fluoro-4-vinylpyrimidine | 3.65 g, 77% yield | ClC1=NC=C(C(=N1)C=C)F | C6H4ClFN2
